US06552021B2
Pyrazino[2,3-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide was prepared from pyrazino[3,2-α]phenazine-11-carboxylic acid (II.6) and N,N-dimethylethylenediamine

reactant | pyrazino[3,2-α]phenazine-11-carboxylic acid | N1=CC=NC=2C1=C1N=C3C(=CC=CC3=NC1=CC2)C(=O)O | C15H8N4O2
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | Pyrazino[2,3-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)N=CC=N4)C | C19H18N6O
